US04022794
Preparation of 7-[3-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic Acid
This compound is prepared essentially by the same method as described in Example 2 except that the 7-3-(3-hydroxyoctyl)-4-oxo-2-thiazolidinyl]heptanoic acid is replaced by 7-[3-(3-hydroxy-4-propoxybutyl)-4-oxo-2-thiazolidinyl]heptanoic acid. This method provides the title compound as an essentially colorless, viscous oil.

reactant | heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
reactant | 7-[3-(3-hydroxy-4-propoxybutyl)-4-oxo-2-thiazolidinyl]heptanoic acid | OC(CCN1C(SCC1=O)CCCCCCC(=O)O)COCCC | C17H31NO5S
product | 7-[3-(3-Hydroxy-4-propoxybutyl)-1,4-dioxo-2-thiazolidinyl]heptanoic Acid | OC(CCN1C(S(CC1=O)=O)CCCCCCC(=O)O)COCCC | C17H31NO6S
